US05451596
To a mixture of trans-2-triphenylmethylamino-[4-(benzoxazol-2-yl)benzyloxy]-cyclopentane (3.67 g; 6.67 mmol)in ethanol (100 ml) and CH2Cl2 (20 ml) is added ethanolic HCl until pH≈2. This is stirred overnight, concentrated in vacuo, washed with CH2Cl2, dried under vacuum and flash chromatographed using 3:1; CH2Cl2:EtOH. The product is rechromatographed using 3:1; CH2Cl2 :EtOH to obtain trans-2-amino-[4-(benzoxazol-2-yl)benzyloxy]cyclopentane hydrochloride (m.p. >200° C.).

reactant | trans-2-triphenylmethylamino-[4-(benzoxazol-2-yl)benzyloxy]-cyclopentane | 6.67 mmol, 3.67 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@H]1[C@@H](CCC1)OCC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C38H34N2O2
reactant | HCl | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | trans-2-amino-[4-(benzoxazol-2-yl)benzyloxy]cyclopentane hydrochloride | Cl.N[C@H]1[C@@H](CCC1)OCC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | InChI=1S/C19H20N2O2.ClH/c20-15-4-3-7-17(15)22-12-13-8-10-14(11-9-13)19-21-16-5-1-2-6-18(16)23-19;/h1-2,5-6,8-11,15,17H,3-4,7,12,20H2;1H/t15-,17-;/m1./s1
